US06756382B2
Using the general method of Example 186 except that chloroform was used as the solvent, 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.50 g, 5.01 mmol) was reacted with benzoyl chloride (972 mg, 5.55 mmol) to provide 700 mg of N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}benzamide as a white solid, m.p. 183.0-186.0° C. Analysis: Calculated for C23H25N5O2.0.5 H2O: % C, 66.97; % H, 6.35; % N, 16.98. Found: % C, 67.16; % H, 6.18; % N, 17.07.

reactant | 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.01 mmol, 1.50 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C16H21N5O
reactant | benzoyl chloride | 5.55 mmol, 972 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}benzamide | 700 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(C2=CC=CC=C2)=O)CCOC | C23H25N5O2
